US06962933B1
3-ethylbenzoyl chloride
3-Ethylbenzoic acid (9.40 g, 62.6 mmol) was added slowly to thionyl chloride (45 mL) at 0° C., and N,N-dimethylformamide (3 drops) was added dropwise. The obtained reaction mixture was refluxed under heating as it was for 2 h. The reaction mixture was concentrated and used without purification in the next reaction.

reactant | 3-Ethylbenzoic acid | 62.6 mmol, 9.40 g | C(C)C=1C=C(C(=O)O)C=CC1 | C9H10O2
reactant | thionyl chloride | 45 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | N,N-dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
product | 3-ethylbenzoyl chloride | C(C)C=1C=C(C(=O)Cl)C=CC1 | C9H9ClO
